US07985755B2
[4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(2-fluoro-phenyl)-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-fluorobenzoyl chloride (65 mg; 0.41 mmol) to obtain 40.2 mg. (55% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.72 (s, 1H), 7.50 (m, 2H), 7.34 (m, 3H), 7.09 (br s, 1H), 6.98 (d, J=8.0 Hz, 1H), 6.83 (d, J=8.0 Hz, 1H), 5.93 (br s, 2H), 4.60 (br d, J=13.5 Hz, 1H), 3.46 (br s, 2H), 3.17 (m, 2H), 3.02 (m, 1H), 2.72 (m, 2H). ESIMS+368.0 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-fluorobenzoyl chloride | 0.41 mmol, 65 mg | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | [4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(2-fluoro-phenyl)-methanone | 55% yield | NC1=NC2=CC=CC(=C2C(=N1)N)N1CCN(CC1)C(=O)C1=C(C=CC=C1)F | C19H19FN6O
